US08614206B2
Following the procedure for Example 506 starting with (R)—N-(1-(1-ethyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide and 5-(tert-butoxycarbonylamino)-2-(2-fluorophenyl)thiazole-4-carboxylic acid gave (R)-tert-butyl 2-(2-fluorophenyl)-4-(1-ethyl-5-(4-(2,2,2-trifluoroacetamido)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a cream solid (330 mg, 72%). 1H-NMR (400 MHz, CDCl3) δ 10.37 (s, 1H), 8.66 (s, 1H), 8.15-8.05 (m, 1H), 7.45-7.35 (m, 1H), 7.30-7.15 (m, 3H), 6.31 (d, J=8 Hz, 1H), 4.25-4.15 (m, 1H), 4.07 (q, J=7 Hz, 2H), 3.43-3.31 (m, 2H), 3.25-3.15 (m, 2H), 2.25-2.10 (m, 2H), 2.10-1.70 (m, 4H), 1.57 (s, 9H) 1.47 (t, J=7 Hz, 3H).

reactant | (R)—N-(1-(1-ethyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide | C(C)N1N=CC(=C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C13H18F3N5O3
reactant | 5-(tert-butoxycarbonylamino)-2-(2-fluorophenyl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1)F)C(=O)O | C15H15FN2O4S
product | (R)-tert-butyl 2-(2-fluorophenyl)-4-(1-ethyl-5-(4-(2,2,2-trifluoroacetamido)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 330 mg, 72% | FC1=C(C=CC=C1)C=1SC(=C(N1)C(NC=1C=NN(C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)CC)=O)NC(OC(C)(C)C)=O | C28H33F4N7O4S
